US08207373B2
Stage 1: (2-nitro-phenyl)-(3-phenoxy-phenyl)-amine
The product (2.08 g) is obtained according to the method of stage 1 of Example 4, by using 1.23 mL of 2-fluoronitrobenzene and 3.3 g of 3-phenoxyaniline in the presence of 2.13 g of potassium tert-butanolate in 10 mL of DMSO.

reactant | 2-fluoronitrobenzene | 1.23 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 3-phenoxyaniline | 3.3 g | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
reactant | potassium tert-butanolate | 2.13 g | C(C)(C)(C)[O-].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | (2-nitro-phenyl)-(3-phenoxy-phenyl)-amine | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC(=CC=C1)OC1=CC=CC=C1 | C18H14N2O3
